US07696223B2
b) 4-Bromomethyl-2-(3-methoxy-phenyl)-thiazole-5-carboxylic acid ethyl ester
A mixture of 2-(3-methoxy-phenyl)-4-methyl-thiazole-5-carboxylic acid ethyl ester (3.01 g, 10.88 mmole), N-bromosuccinimide (2.03 g, 11.42 mole) and benzoyl peroxide (132 mg, 0.54 mmole) in carbon tetrachloride (40 ml) was refluxed for 16 h before it was cooled to room temperature and partitioned between dichloromethane and water. The organic layer was washed with saturated aqueous sodium bicarbonate solution, brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound as a yellow solid (3.66 g). MS: (+) m/z 355.92, 357.92 (M+1, 79Br/81Br).

reactant | 2-(3-methoxy-phenyl)-4-methyl-thiazole-5-carboxylic acid ethyl ester | 10.88 mmole, 3.01 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC(=CC=C1)OC)C | C14H15NO3S
reactant | N-bromosuccinimide | 11.42 mole, 2.03 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.54 mmole, 132 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-Bromomethyl-2-(3-methoxy-phenyl)-thiazole-5-carboxylic acid ethyl ester | 3.66 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC(=CC=C1)OC)CBr | C14H14BrNO3S
